US07863302B2
6-Bromo-1-cyclopropyl-5-methoxy-2-methyl-1H-indole-3-carboxylic acid ethyl ester
Sodium hydride (60% in mineral oil, 71 mg, 1.8 mmol) is added to a solution of 6-bromo-1-cyclopropyl-5-hydroxy-2-methyl-1H-indole-3-carboxylic acid ethyl ester (200 mg, 0.590 mmol) in DMF (4.0 mL). The mixture is stirred for 20 minutes at room temperature. Methyl iodide (110 μL, 1.77 mmol) is added and the mixture is stirred for 1 h at room temperature. The mixture is diluted with water and ether. The layers are separated. The ether layer is washed with water and brine, dried over MgSO4, and concentrated under reduced pressure. The residue is triturated in ethyl acetate-hexane to give the title compound as an off-white solid (183 mg, 88%). ES/MS m/e 353.8 (M+1).

reactant | Sodium hydride | 1.8 mmol, 71 mg | [H-].[Na+]
reactant | 6-bromo-1-cyclopropyl-5-hydroxy-2-methyl-1H-indole-3-carboxylic acid ethyl ester | 0.590 mmol, 200 mg | C(C)OC(=O)C1=C(N(C2=CC(=C(C=C12)O)Br)C1CC1)C | C15H16BrNO3
reactant | Methyl iodide | 1.77 mmol, 110 μL | CI | CH3I
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 6-Bromo-1-cyclopropyl-5-methoxy-2-methyl-1H-indole-3-carboxylic acid ethyl ester | 183 mg, 88% | C(C)OC(=O)C1=C(N(C2=CC(=C(C=C12)OC)Br)C1CC1)C | C16H18BrNO3
